US05123951
A solution of 5.0 grams (0.03 mole) of 3,4-dichloro-2,5-dimethyl-1-nitrobenzene in 70 milliliters of ethanol was hydrogenated at room temperature at 50 psi in the presence of 0.25 gram of 10% palladium on activated carbon as a catalyst. Working up the reaction mixture gave 1.21 grams (0.006 mole) of 3,4-dichloro-2,5-dimethylaniline as a yellow solid having a melting point of 72° C.-76° C. NMR analysis of the product indicated the following:

reactant | 3,4-dichloro-2,5-dimethyl-1-nitrobenzene | 0.03 mole, 5.0 grams | ClC=1C(=C(C=C(C1Cl)C)[N+](=O)[O-])C | C8H7Cl2NO2
solvent | ethanol | 70 milliliters | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.25 gram | [Pd] | Pd
product | 3,4-dichloro-2,5-dimethylaniline | 0.006 mole, 1.21 grams | ClC=1C(=C(N)C=C(C1Cl)C)C | C8H9Cl2N
